US05929098
In a 1000 mL, three-necked, round-bottomed flask fitted with a mechanical stirrer, nitrogen inlet and thermometer were placed 10 g of 4-acetamido-3-nitrobenzoic acid, 200 mL of tetrahydrofuran and 31 mL of triethylamine. The resulting well-stirred mixture was cooled to -30° C. and 3.9 mL of methane sulfonyl chloride were added dropwise while keeping the reaction temperature at -30° C. The resulting suspension was stirred at -30° C. for 30 minutes, after which 6.7 g of 3-amino-3-methyl-1-pentyne hydrochloride were added slowly over a 20 minute period. After the addition was complete, the reaction mixture was stirred at -30° C. for an additional 30 minutes. The reaction mixture was then poured into a mixture of 400 mL water and 200 mL of ethyl acetate. The phases were separated and the aqueous layer was then extracted with ethyl acetate (2×150 mL). The combined organic phases were washed sequentially with water (1×200 mL), 5% aqueous hydrochloric acid (2×200 mL), water (1×200 mL), 2% aqueous sodium hydroxide (2×200 mL) and water (1×200 mL) and then dried over anhydrous magnesium sulfate. The solvent was removed in the rotary evaporator, yielding 8.2 g of N-(3-methylpent-1-yn-3-yl)-4-acetamido-3-nitrobenzamide.

reactant | 4-acetamido-3-nitrobenzoic acid | 10 g | C(C)(=O)NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H8N2O5
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
reactant | methane sulfonyl chloride | 3.9 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-amino-3-methyl-1-pentyne hydrochloride | 6.7 g | Cl.NC(C#C)(CC)C
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 400 mL | O | H2O
solvent | triethylamine | 31 mL | C(C)N(CC)CC | C6H15N
product | N-(3-methylpent-1-yn-3-yl)-4-acetamido-3-nitrobenzamide | 8.2 g | CC(C#C)(CC)NC(C1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-])=O | C15H17N3O4
